US08202856B2
Step 1: Ethyl 1-(2-fluorophenyl)-5-isopropyl-1H-1,2,3-triazole-4-carboxylate
DBU (3.6 ml; 24.07 mmol; 1.10 eq.) was dissolved in DMF (45 ml) and put under nitrogen atmosphere. Ethyl isobutyrylacetate (Aldrich, 3.807 g; 24.07 mmol; 1.10 eq.) was added to the mixture and it was stirred for 15 min. Then a solution of 1-azido-2-fluorobenzene, prepared according to Platz, M. S. et al. J. Org. Chem. 1989, 54, 5938-5945, (3 g; 21.858 mmol; 1 eq.) in DMF (10 mL) was added dropwise to the solution at room temperature. The reaction mixture was stirred at 70° C. for 5 hours. Water (80 mL) was added to the reaction mixture. The aqueous layer was extracted with EtOAc (2×100 mL). Combined organics were washed with HCl 0.1N, brine, dried over MgSO4 and concentrated under vacuum giving the title compound as a brown oil. It was used in the next step without further purification. LC/MS (Method B): 278.2 (M+H)+.

reactant | DBU | 24.07 mmol, 3.6 ml, 1.10 eq. | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | Ethyl isobutyrylacetate | 24.07 mmol, 3.807 g, 1.10 eq. | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | 1-azido-2-fluorobenzene | N(=[N+]=[N-])C1=C(C=CC=C1)F | C6H4FN3
reactant | Water | 80 mL | O | H2O
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-(2-fluorophenyl)-5-isopropyl-1H-1,2,3-triazole-4-carboxylate | FC1=C(C=CC=C1)N1N=NC(=C1C(C)C)C(=O)OCC | C14H16FN3O2
